US07973050B2
Preparation of the title compound 5-(3-oxopropylamino)thieno[3,2-b]pyridin-7-yl benzoate HCl salt, an example of compound 7
The crude 5-(3,3-diethoxypropylamino)thieno[3,2-b]pyridin-7-yl benzoate from above (677.3 g, 1.68 mol) was dissolved in 3.0 L of THF. Then, 12N HCl (1.68 mol, 0.14 L) was added dropwise while the reaction temperature was maintained below 20° C. with an ice-water bath. After stirring for 5 minutes, solids precipitated. The resultant mixture was stirred at room temperature for 1 h, followed by the addition of ethyl acetate (2.0 L). The mixture was stirred for 30 min. The solids were filtered, rinsed with ethyl acetate (250 ml×2), and then dried under reduced pressure at 55° C. to give the title compound 5-(3-oxopropylamino)thieno[3,2-b]pyridin-7-yl benzoate HCl salt as a light brown solid. 1H NMR (400 MHz, DMSO d6) δ 2.20 (m, 2H), 3.56 (m, 2H), 6.31 (t, 1H, J=3.6 NHz), 7.83-7.87 (m, 2H), 7.96 (d, 1H, J=6.0 Hz), 8.16-8.20 (m, 2H), 8.35 (d, 1H, J=5.6 Hz), 10.20 (s, 1H).

reactant | 5-(3,3-diethoxypropylamino)thieno[3,2-b]pyridin-7-yl benzoate | C(C1=CC=CC=C1)(=O)OC1=C2C(=NC(=C1)NCCC(OCC)OCC)C=CS2 | C21H24N2O4S
reactant | HCl | 1.68 mol, 12N, 0.14 L | Cl | ClH
solvent | THF | 3.0 L | C1CCOC1 | C4H8O
product | 5-(3-oxopropylamino)thieno[3,2-b]pyridin-7-yl benzoate HCl salt | Cl.C(C1=CC=CC=C1)(=O)OC1=C2C(=NC(=C1)NCCC=O)C=CS2 | InChI=1S/C17H14N2O3S.ClH/c20-9-4-8-18-15-11-14(16-13(19-15)7-10-23-16)22-17(21)12-5-2-1-3-6-12;/h1-3,5-7,9-11H,4,8H2,(H,18,19);1H
